US07015218B1
Then, cis-2-(3,5-dimethylpiperazin-1-yl)-5-nitrobenzonitrile (14.3 g), potassium carbonate (4.9 g) and ethyl bromoacetate (6 g) were added to dimethylformamide (35 ml), and the mixture was stirred at 60° C. for 1 h. The reaction mixture was added to water and extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate, after which the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (mobile phase: chloroform) to give ethyl cis-4-(4-nitro-2-cyanophenyl)-2,6-dimethylpiperazin-1-ylacetate (10.8 g) as an oily substance.

reactant | cis-2-(3,5-dimethylpiperazin-1-yl)-5-nitrobenzonitrile | 14.3 g | C[C@@H]1CN(C[C@@H](N1)C)C1=C(C#N)C=C(C=C1)[N+](=O)[O-] | C13H16N4O2
reactant | potassium carbonate | 4.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 6 g | BrCC(=O)OCC | C4H7BrO2
reactant | dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | ethyl cis-4-(4-nitro-2-cyanophenyl)-2,6-dimethylpiperazin-1-ylacetate | 10.8 g | [N+](=O)([O-])C1=CC(=C(C=C1)N1C[C@@H](N([C@@H](C1)C)CC(=O)OCC)C)C#N | C17H22N4O4
